US07935699B2
2-(3-chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-furan-2(R)-yl)-propionic acid methyl ester (180 mg, 0.52 mmol) was dissolved in ethanol (5 mL) and treated with a solution of lithium hydroxide monohydrate (54 mg, 1.3 mmol) in water (1 mL) at 25° C. It was stirred at 25° C. until the starting material was all consumed by TLC. The reaction was then concentrated in vacuo to remove the ethanol. The remaining aqueous layer was then acidified to pH=2 with an aqueous 1N hydrochloric acid solution. This was then extracted with ethyl acetate (3×20 mL), the organic layers combined and dried over magnesium sulfate, filtered and concentrated in vacuo to afford 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-furan-2(R)-yl)-propionic acid (168 mg, 98%) as a reaction of two diastereomers as a white foam: ES-HRMS m/e calcd for C14H17O5SCl (M+H)+ 333.0558, observed 333.0553; 1H NMR (300 MHz, DMSO-d6) δ ppm 1.35-1.49 (m, 1H, CH of CH2), 1.66-1.99 (m, 4H, 4×CH of CH2), 2.06-2.23 (m, 1H, CH of CH2), 3.34, 3.35 (2×s, 3H, SO2CH3), 3.42-3.85 (m, 4H, OCH2 and OCH and ArCH), 7.54 (2×dd, Jo=8.1 Hz, Jm=1.7 Hz, 1H, Ar), 7.66 (2×d, Jm=1.7 Hz, 1H, Ar), 7.99 (2×d, Jo=8.1 Hz, 1H, Ar), 12.69 (brs, 1H, CO2H).

reactant | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-furan-2(R)-yl)-propionic acid methyl ester | 0.52 mmol, 180 mg | COC(C(C[C@@H]1OCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C15H19ClO5S
reactant | lithium hydroxide monohydrate | 1.3 mmol, 54 mg | O.[OH-].[Li+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-furan-2(R)-yl)-propionic acid | 168 mg, 98% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)C[C@@H]1OCCC1 | C14H17ClO5S
